US08242104B2
To a solution of 10-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (9 g, 20 mmol) in THF (40 mL) was added Ethylmagnesium bromide in Ethyl ether (22 mL) at −20° C. The mixture was allowed to warm to room temperature and in one and half hour the completion was showed by LCMS. The reaction mixture was poured into 10% NH4Cl and extracted by EtOAc. Organic layer was washed by brine, dried by MgSO4 and concentrated. The crude was purified by Isco chromatography to afford 10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine. LC/MS (ESI+): m/z 265 (M+H).

reactant | 10-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 20 mmol, 9 g | BrC=1C=CC2=C(C=3N(CCO2)C=C(N3)I)C1 | C11H8BrIN2O
reactant | Ethylmagnesium bromide | C(C)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | Ethyl ether | 22 mL | C(C)OCC | C4H10O
product | 10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | BrC=1C=CC2=C(C=3N(CCO2)C=CN3)C1 | C11H9BrN2O
